US07595405B2
To a solution of 2-tert-Butoxycarbonylamino-propionic acid (3.5 g, 18.5 mmol), HOBt (22.2 mmol), NMP (22.2 mmol) and EDCI (22.2 mmol) in CH2Cl2 was added thiomorpholine (2.29 g, 22.2 mmol) at 0° C. The reaction mixture was stirred at 0° C. overnight, then washed with 2% aqueous NaOH, water, brine, and dried over Na2SO4. The solvent was removed under vacuum to give (1-Methyl-2-oxo-2-thiomorpholin-4-yl-ethyl)-carbamic acid tert-butyl ester (5.0 g) yield 98%. MS (M+H)=275.

reactant | 2-tert-Butoxycarbonylamino-propionic acid | 18.5 mmol, 3.5 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C | C8H15NO4
reactant | HOBt | 22.2 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMP | 22.2 mmol | CN1CCCC1=O | C5H9NO
reactant | EDCI | 22.2 mmol | CCN=C=NCCCN(C)C | C8H17N3
reactant | thiomorpholine | 22.2 mmol, 2.29 g | N1CCSCC1 | C4H9NS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (1-Methyl-2-oxo-2-thiomorpholin-4-yl-ethyl)-carbamic acid tert-butyl ester | 5.0 g, yield 98% | C(C)(C)(C)OC(NC(C(N1CCSCC1)=O)C)=O | C12H22N2O3S
